US03962443
Ethyl 2-(4-acetyl-1-piperazinyl)-8-(2-chloroethyl)-5,8 -dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 61)
A solution of 1.0 g of ethyl 2-(4-acetyl-1-piperazinyl)-5-ethoxypyrido[2,3-d]pyrimidine-6-carboxylate in 10 ml of 1,2-dichloroethane was heated to reflux for 15 hours. After removal of an excess of the reagent by distillation, the resulting solid was taken up in chloroform and the chloroform solution washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off to leave a solid which was recrystallized from ethyl acetate to give 0.65 g of the product, m.p. 205° - 206°C.

reactant | ethyl 2-(4-acetyl-1-piperazinyl)-5-ethoxypyrido[2,3-d]pyrimidine-6-carboxylate | 1.0 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N=CC(=C2OCC)C(=O)OCC | C18H23N5O4
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | Ethyl 2-(4-acetyl-1-piperazinyl)-8-(2-chloroethyl)-5,8 -dihydro-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 0.65 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CCCl | C18H22ClN5O4
